US07807847B2
(R)-(−)-2,2-dimethyl-1,3-dioxolane-4-methanol (11 grams), powdered potassium hydroxide (20 grams) and hexadecyl bromide (27.96 grams) in toluene (150 ml) were stirred and refluxed for 6 hours, while removing the water formed by azeotropic distillation. The volume of the solvent was gradually reduced to about 40 ml. The reaction mixture was cooled to room temperature; water was added (100 ml) and the resulting mixture was extracted with dichloromethane (3×75 ml). The combined organic phase was washed with water (50 ml) and the solvent removed under reduced pressure. The residue was dissolved in 200 ml mixture of 90:10:5 methanol:water:concentrated hydrochloric acid (v/v) and the resulting solution was refluxed for 2 hours, followed by cooling to room temperature and addition of water (100 ml). The product was extracted with dichloromethane (3×100 ml), and the organic phase was washed consecutively with water (100 ml), saturated aqueous solution of sodium carbonate (100 ml) and again with water (100 ml). The solvent was removed under reduced pressure and the product was crystallized from hexane (200 ml) to give 21.69 grams (yield 82%) of pure 1-hexadecyl-glycerol, upon drying in a desiccator under reduced pressure.

reactant | (R)-(−)-2,2-dimethyl-1,3-dioxolane-4-methanol | 11 grams | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | potassium hydroxide | 20 grams | [OH-].[K+]
reactant | hexadecyl bromide | 27.96 grams | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-hexadecyl-glycerol | 21.69 grams, yield 82% | C(CCCCCCCCCCCCCCC)OCC(O)CO | C19H40O3
